US05212320
A mixture of ethyl 4-[3-[3-(chloromethyl)benzoyl]-indol-1-yl]butyrate (42.1 mg), 4-isobutylaniline (18.0 mg) and potassium carbonate (30.3 mg) in N,N-dimethylformamide (5 ml) was heated at 50° C. for 20 hours and at 100° C. for 2.5 hours. The mixture was worked up in an usual manner and purified by this layer silica gel chromatography eluting with a mixture of chloroform, hexane and ethyl acetate (6:2:1) to give ethyl 4-[3-[3-[(4-isobutylphenyl)aminomethyl]benzoyl]indol-1-yl]butyrate (23 mg) as an oil.

reactant | ethyl 4-[3-[3-(chloromethyl)benzoyl]-indol-1-yl]butyrate | 42.1 mg | ClCC=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=CC1 | C22H22ClNO3
reactant | 4-isobutylaniline | 18.0 mg | C(C(C)C)C1=CC=C(N)C=C1 | C10H15N
reactant | potassium carbonate | 30.3 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | ethyl 4-[3-[3-[(4-isobutylphenyl)aminomethyl]benzoyl]indol-1-yl]butyrate | 23 mg | C(C(C)C)C1=CC=C(C=C1)NCC=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=CC1 | C32H36N2O3
